US07414061B2
{4-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-carbamic acid tert-butyl ester
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 4-(N-Boc-amino)phenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (10 mg, 5%) which was obtained as a white solid (ESI). MS: m/e=417.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 4-(N-Boc-amino)phenylboronic acid | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
product | {4-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-carbamic acid tert-butyl ester | 10 mg, 5% | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C24H24N4O3
